US08202873B2
4-(1-Ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3′-phenyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
Dissolve 3′-phenyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.28 g, 1.18 mmol) in DCE (5 mL). Add 1-ethyl-5-methyl-1H-pyrazole-4-carbaldehyde (0.24 g, 1.76 mmol) and stir at room temperature for 20 min. Add sodium triacetoxyborohydride (0.5 g, 2.36 mmol) followed by acetic acid (0.07 mL, 1.24 mmol). Stir at room temperature for 16 hr. Purify via SCX chromatography, followed by silica gel chromatography, eluting with 3:97 to 7:93 7 N ammonia in methanol:ethyl acetate, to give the free base of the title compound (0.22 g, 52%). MS (ES): m/z=363.3 [M+H]+.

reactant | 3′-phenyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.18 mmol, 0.28 g | C1(=CC=CC=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H16N4
reactant | 1-ethyl-5-methyl-1H-pyrazole-4-carbaldehyde | 1.76 mmol, 0.24 g | C(C)N1N=CC(=C1C)C=O | C7H10N2O
reactant | sodium triacetoxyborohydride | 2.36 mmol, 0.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.24 mmol, 0.07 mL | C(C)(=O)O | C2H4O2
reactant | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 4-(1-Ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3′-phenyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 0.22 g, 52% | Cl.C(C)N1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=CC=C1 | InChI=1S/C21H26N6.ClH/c1-3-27-17(2)19(15-24-27)16-25-11-13-26(14-12-25)21-20(22-9-10-23-21)18-7-5-4-6-8-18;/h4-10,15H,3,11-14,16H2,1-2H3;1H
